US07812047B2
b) 4-{[(3-Chloro-phenyl)-methyl-amino]-methyl}-4,5-dihydro-1H-imidazol-2-ylamine
N1-(3-Chloro-phenyl)-N1-methyl-propane-1,2,3-triamine (0.321 g, 1.5 mmol) was dissolved in tetrahydrofurane (5 ml) and potassium carbonate (0.249 g, 1.8 mmol) was added. Under cooling with an ice-bath a solution of cyanogen bromide (0.191 g, 1.8 mmol) in tetrahydrofurane (5 ml) was added dropwise. The cooling bath was removed and stirring was continued for one hour. Ethyl acetate (50 ml) and water (20 ml) were added and the organic layer was separated. The mixture was extracted again with ethyl acetate. The combined organic layers were dried over magnesium sulfate and evaporated. The residue was recrystallised from ethyl acetate to yield 0.1 g (28%) of a white solid; MS (ISP): 239.2 ((M+H)+).

reactant | N1-(3-Chloro-phenyl)-N1-methyl-propane-1,2,3-triamine | 1.5 mmol, 0.321 g | ClC=1C=C(C=CC1)N(CC(CN)N)C | C10H16ClN3
reactant | potassium carbonate | 1.8 mmol, 0.249 g | C([O-])([O-])=O.[K+].[K+]
reactant | cyanogen bromide | 1.8 mmol, 0.191 g | N#CBr | CBrN
solvent | tetrahydrofurane | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofurane | 5 ml | O1CCCC1 | C4H8O
product | 4-{[(3-Chloro-phenyl)-methyl-amino]-methyl}-4,5-dihydro-1H-imidazol-2-ylamine | 0.1 g, 28% | ClC=1C=C(C=CC1)N(C)CC1N=C(NC1)N | C11H15ClN4
